US04328244
A mixture of 52.0 g (0.30 mole) of 3-aminobenzenesulfonic acid, 83.0 g (0.61 mole) of sodium acetate trihydrate, 33.7 g (0.20 mole) of 2,4,6-trimethylbenzyl chloride, 225 ml of water and 150 ml of acetonitrile was refluxed for 4 hrs, then acidified by the dropwise addition of 40 ml of conc. HCl over 30 minutes during which time approximately 100 ml of acetonitrile was distilled off. The resulting mixture was vacuum filtered while hot (80° C.) and a grayish-white powder obtained which was then slurried in 300 ml of hot (65° C.) water for 20 minutes and vacuum filtered. The slurrying process was repeated with water and then with 300 ml of boiling methanol for 20 minutes. Vacuum filtration followed by drying in vacuo at about 60° C. afforded 24.85 g (40.7% yield) of purified 3-(((2,4,6-trimethylphenyl)methyl)amino)benzenesulfonic acid as a white powder having a melting point greater than 275° C.

reactant | 3-aminobenzenesulfonic acid | 0.30 mole, 52.0 g | NC=1C=C(C=CC1)S(=O)(=O)O | C6H7NO3S
reactant | sodium acetate trihydrate | 0.61 mole, 83.0 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 2,4,6-trimethylbenzyl chloride | 0.20 mole, 33.7 g | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
reactant | HCl | 40 ml | Cl | ClH
solvent | water | O | H2O
solvent | acetonitrile | approximately 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | 225 ml | O | H2O
product | 3-(((2,4,6-trimethylphenyl)methyl)amino)benzenesulfonic acid | 24.85 g, 40.7% yield | CC1=C(C(=CC(=C1)C)C)CNC=1C=C(C=CC1)S(=O)(=O)O | C16H19NO3S
